US06602825B1
N-(4-Chloro-2,6-difluoro-3-nitrophenyl)acetamide
30.7 g (487 mmol) of concentrated nitric acid were added dropwise at 0-5° C. to a solution of 100 g (487 mmol) of N-(4-chloro-2,6-difluorophenyl)acetamide in 500 ml of concentrated sulfuric acid. After the reaction mixture had been stirred for one hour at 0-5° C., it was stirred into ice-water. The resulting solid was separated off, washed twice with water and dried. Yield: 81.3 g (72%);

reactant | nitric acid | 487 mmol, 30.7 g | [N+](=O)(O)[O-] | HNO3
reactant | N-(4-chloro-2,6-difluorophenyl)acetamide | 487 mmol, 100 g | ClC1=CC(=C(C(=C1)F)NC(C)=O)F | C8H6ClF2NO
solvent | sulfuric acid | 500 ml | S(O)(O)(=O)=O | H2O4S
product | N-(4-Chloro-2,6-difluoro-3-nitrophenyl)acetamide | ClC1=C(C(=C(C(=C1)F)NC(C)=O)F)[N+](=O)[O-] | C8H5ClF2N2O3
